US07696229B2
Into a 100 mL 3-necked round bottom flask was placed pyridin-3-ylboronic acid (200 mg, 1.63 mmol), 5-bromo-3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-1-(phenylsulfonyl)-1H-indole (470 mg, 1.08 mmol), and n-propanol (140 mL). The mixture was stirred at room temperature for 30 min during which time the solids dissolved. A solution of Na2CO3 (430 mg, 4.06 mmol) in water (5 mL) was then added, followed by the addition of Pd(PPh3)4 (130 mg, 0.108 mmol). The resulting solution was stirred at reflux temperature overnight, and then concentrated. The residue was dissolved in water (10 mL), and the resulting solution was extracted diethylether (2×50 mL). The organic layers were combined and the residue was purified by column chromatography using a 1:5 dichloromethane/methanol solvent system to afford 200 mg (42.5%) of 3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-1-(phenylsulfonyl)-5-(pyridin-4-yl)-1H-indole as a deep yellow solid. 1H NMR (CDCl3) δ 8.69 (d, 2H), 8.12 (d, 1H), 7.93 (t, 3H), 7.60 (d, 3H), 7.48 (d×d, 4H), 6.18 (s, 1H), 2.85 (2H), 1.52 (2H), 1.25 (3H), 0.87 (2H). LC/MS (EI) tR 2.18, m/z 430.0 (M++1)

reactant | pyridin-3-ylboronic acid | 1.63 mmol, 200 mg | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | 5-bromo-3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-1-(phenylsulfonyl)-1H-indole | 1.08 mmol, 470 mg | BrC=1C=C2C(=CN(C2=CC1)S(=O)(=O)C1=CC=CC=C1)C=1CCN(CC1)C | C20H19BrN2O2S
reactant | n-propanol | 140 mL | C(CC)O | C3H8O
reactant | Na2CO3 | 4.06 mmol, 430 mg | C(=O)([O-])[O-].[Na+].[Na+]
solvent | water | 5 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.108 mmol, 130 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-1-(phenylsulfonyl)-5-(pyridin-4-yl)-1H-indole | 200 mg, 42.5% | CN1CCC(=CC1)C1=CN(C2=CC=C(C=C12)C1=CC=NC=C1)S(=O)(=O)C1=CC=CC=C1 | C25H23N3O2S
